US06426345B1
A mixture of 4-(3-biphenylyl)-2-(2-carboxyethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine. (80 mg), iodomethane (0.04 ml) and potassium carbonate (90 mg) in N,N-dimethylformamide (2 ml) was stirred at room temperature for 1 hour. Then the mixture was poured into a mixture of ethyl acetate and aqueous sodium bicarbonte. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was crystallized from methanol to give 4-(3-biphenylyl)-2-(2-methoxycarbonylethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (71 mg).

reactant | 4-(3-biphenylyl)-2-(2-carboxyethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | C1(=CC(=CC=C1)N1C2=C(N=C(C1=O)CCC(=O)O)C=CC=N2)C2=CC=CC=C2 | C22H17N3O3
reactant | iodomethane | 0.04 ml | IC | CH3I
reactant | potassium carbonate | 90 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium | [Na] | Na
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-biphenylyl)-2-(2-methoxycarbonylethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 71 mg | C1(=CC(=CC=C1)N1C2=C(N=C(C1=O)CCC(=O)OC)C=CC=N2)C2=CC=CC=C2 | C23H19N3O3
